US07799822B2
Prepared using general procedure 57. Under an N2 atmosphere at −20° C., diisopropyl ethyl amine (7.59 g, 10.23 mL, 58.77 mmol) was added drop wise to a solution of solution of (R)-3-hydroxydihydrofuran-2(3H)-one (3 g, 29.38 mmol) in dichloromethane (50 mL). Then added trifluoromethanesulfonic anhydride (8.69 g, 5.18 mL, 30.81 mmol) drop wise by maintaining internal temperature of the reaction mixture <−20° C. Upon completion of addition, the mixture was stirred at −20° C. for 1 hour. Then added at −20° C., 4-chloro-indoline (6.74 gm, 44.07 mmol) drop wise. The reaction was allowed to warm to RT over a period of 30 minutes and continued to stir at RT for 16 hrs. The reaction mixture was diluted with 200 mL of ethylacetate and washed with saturated sodium bicarbonate (3×50 mL). The organic layer was washed with a saturated aqueous NaCl solution (2×50 mL). The solution was dried over magnesium sulfate, filtered, and concentrated. Purification via silica gel chromatography using 10-30% ethyl acetate in hexane gave (S)-3-(4-chloroindolin-1-yl)dihydrofuran-2(3H)-one as a white solid (5.47 g, 80% yield). 1H NMR (400 MHz, DMSO-d6) δ 7.03 (t, J=8.0 Hz, 1H), 6.63 (dd, J=0.6, 8.0 Hz, 1H), 6.51 (d, J=7.9 Hz, 1H), 4.91 (dd, J=9.2, 11.2 Hz, 1H), 4.45-4.40 (m, 1H), 4.30-4.23 (m, 1H), 3.55-3.48 (m, 1H), 3.28 (dd, J=8.5, 18.0 Hz, 1H), 2.99-2.94 (m, 2H), 2.40-2.32 (m, 2H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=237.9; tR=1.51 min.

reactant | diisopropyl ethyl amine | 58.77 mmol, 10.23 mL, 7.59 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-3-hydroxydihydrofuran-2(3H)-one | 29.38 mmol, 3 g | O[C@H]1C(OCC1)=O | C4H6O3
reactant | trifluoromethanesulfonic anhydride | 30.81 mmol, 5.18 mL, 8.69 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-chloro-indoline | 44.07 mmol, 6.74 gm | ClC1=C2CCNC2=CC=C1 | C8H8ClN
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethylacetate | 200 mL | C(C)OC(C)=O | C4H8O2
product | (S)-3-(4-chloroindolin-1-yl)dihydrofuran-2(3H)-one | 5.47 g, 80% yield | ClC1=C2CCN(C2=CC=C1)[C@@H]1C(OCC1)=O | C12H12ClNO2
